US05733912
20d. 7a-(6-methyl-3-pyridinyl)-hexahydro-1H-pyrrolizine dihydrochloride salt
7a-(6-methyl-3-pyridinyl)-hexahydro-1H-pyrrolizine (115 mg, 0.57 mmol) was dissolved in Et2O, and Et2O saturated with HCl (g) was added. The solvent was removed, and the solid was crystallized from MeOH/Et2O and dried to afford the title compound as a free flowing white powder: mp 205°-208° C.; 1H NMR D2O, 300 MHz) δ2.14-2.49 (m, 6H), 2.57-2.66 (m, 5H), 3.34-3.42 (m, 2H), 3.78-3.87 (m, 2H), 7.56 (d, J=8.1 Hz, 1H), 8.05 (dd, J=8.1, 2.7 Hz, 1H), 8.61 (d, J=2.7 Hz, 1H); MS (CI/NH3) m/z: 203 (M+H)+ ; MS (CI/NH3): m/z 203 (M+H+); Anal. Calcd for C13H18N2.2 HCl.0.8 H2O: C, 53.91; H, 7.52; N, 9.67. Found: C, 53.80; H, 7.46; N, 9.68.

reactant | 7a-(6-methyl-3-pyridinyl)-hexahydro-1H-pyrrolizine | 0.57 mmol, 115 mg | CC1=CC=C(C=N1)C12CCCN2CCC1 | C13H18N2
reactant | HCl | Cl | ClH
solvent | Et2O | CCOCC | C4H10O
product | 7a-(6-methyl-3-pyridinyl)-hexahydro-1H-pyrrolizine dihydrochloride salt | Cl.Cl.CC1=CC=C(C=N1)C12CCCN2CCC1 | InChI=1S/C13H18N2.2ClH/c1-11-4-5-12(10-14-11)13-6-2-8-15(13)9-3-7-13;;/h4-5,10H,2-3,6-9H2,1H3;2*1H
